* /home/ameya/esim-workspace/2bb/2bb.cir

.include sw4.sub
r1  vddin net-_r1-pad2_ 1k
r2  net-_r1-pad2_ net-_r2-pad2_ 1k
r3  net-_r2-pad2_ net-_r3-pad2_ 1k
r4  net-_r3-pad2_ gnd 1k
v2  vddin gnd 3.3
v3  d0 gnd pulse(0 1.8 0 10p 10p 2n 4n)
v4  d1 gnd pulse(0 1.8 1n 10p 1p 2n 4n)
* u4  d1 plot_v1
* u1  d0 plot_v1
v1  vdd gnd 3.3
* u2  ? plot_v1
* u3  ? plot_v1
* u5  /out3 plot_v1
x1 d0 vdd net-_r1-pad2_ net-_r2-pad2_ out1 gnd sw4
x2 d0 vdd net-_r2-pad2_ net-_r3-pad2_ out2 gnd sw4
x3 d1 vdd out1 out2 out3 gnd sw4
.tran 1e-09 10e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot d0 d1 out3
.endc
.end
