* /home/ameya/esim/esim-2.0/library/subcircuitlibrary/sw4/sw4.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
m1 d0 d gnd gnd CMOSN W=0.36e-6 L=0.18e-6 M=1
m2 vdd d d0 vdd CMOSP W=0.9e-6 L=0.18e-6 M=1
m5 net-_m3-pad1_ d vil vdd CMOSP W=0.9e-6 L=0.18e-6 M=1
m3 net-_m3-pad1_ d0 vil gnd CMOSN W=0.36e-6 L=0.18e-6 M=1
m6 vih d net-_m3-pad1_ gnd CMOSN W=0.36e-6 L=0.18e-6 M=1
m4 vih d0 net-_m3-pad1_ vdd CMOSP W=0.9e-6 L=0.18e-6 M=1
* u1  ? gnd vdd ? ? ? port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
